US08039460B2
tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-methoxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Iodomethane (6.0 μL, 0.10 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (40 mg, 0.10 mmol) and sodium hydride (60% dispersion in mineral oil; 6.7 mg, 0.15 mmol) in tetrahydrofuran (1 mL) at 0° C. After 2 h, the mixture was allowed to warm to ambient temperature. Additional iodomethane (6.0 μL, 0.10 mmol) and sodium hydride (60% dispersion in mineral oil; 2.2 mg, 0.05 mmol) were added every 1.5 h over a total of 4.5 h, after which the reaction was quenched with water and the mixture was extracted with dichloromethane (3×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (16 mg). MS 422.2 (M+1).

reactant | Iodomethane | 0.10 mmol, 6.0 μL | IC | CH3I
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.10 mmol, 40 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)O)NC(OC(C)(C)C)=O | C21H27F2N3O3
reactant | sodium hydride | 0.15 mmol, 6.7 mg | [H-].[Na+]
reactant | iodomethane | 0.10 mmol, 6.0 μL | IC | CH3I
reactant | sodium hydride | 0.05 mmol, 2.2 mg | [H-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-methoxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 16 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)OC)NC(OC(C)(C)C)=O | C22H29F2N3O3
